US04933355
Ethyl 2-tritylaminothiazole-4-carboxylate
A mixture comprising 5 g of triphenylchloromethane and 15 ml of dichloromethane was added dropwise at -30° C. to a mixture comprising 3.1 g of ethyl 2-aminothiazole-4-carboxylate, 25 ml of dimethylformamide and 1.8 g of triethylamine. The reaction mixture was maintained at -30° C. for 10 minutes and was then stirred at room temperature for 2 hours. after which it was poured into ice water and extracted with ethyl acetate. The extract was washed successively with 0.1N hydrochloric acid and aqueous sodium chloride solution, and then dried over anhydrous sodium sulfate. The solvent was evaporated off under reduced pressure, and the residue was purified by silica gel chromatography, using as eluent a 10:1 by volume mixture of benzene and ethyl acetate. The crystals obtained thereby were washed with n-hexane, to afford the desired compound as a white powder.

reactant | triphenylchloromethane | 5 g | C1(=CC=CC=C1)C(Cl)(C1=CC=CC=C1)C1=CC=CC=C1 | C19H15Cl
reactant | dichloromethane | 15 ml | ClCCl | CH2Cl2
reactant | ethyl 2-aminothiazole-4-carboxylate | 3.1 g | NC=1SC=C(N1)C(=O)OCC | C6H8N2O2S
reactant | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
solvent | triethylamine | 1.8 g | C(C)N(CC)CC | C6H15N
product | Ethyl 2-tritylaminothiazole-4-carboxylate | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)C(=O)OCC | C25H22N2O2S
